US04469868
A mixture of 30.5 g (0.17 mol) of 1,3,5-trimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-ol and 37 g (0.18 mol) of phosphorus pentachloride in 350 ml of phosphorus oxychloride is stirred under reflux for seven hours and the resulting solution is evaporated in vacuo. The solid residue is redissolved in 300 ml of methylenedichloride and stirred with 200 ml of a saturated aqueous solution of sodium bicarbonate. The organic layer is dried over MgSO4 and evaporated in vacuo to give 30 g (98%) of 7-chloro-1,3,5-trimethyl-1H-pyrazolo[4,3-d]pyrimidine, mp 91°-93° C. from ethyl acetate-pet ether.

reactant | 1,3,5-trimethyl-1H-pyrazolo[4,3-d]pyrimidin-7-ol | 0.17 mol, 30.5 g | CN1N=C(C=2N=C(N=C(C21)O)C)C | C8H10N4O
reactant | phosphorus pentachloride | 0.18 mol, 37 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | phosphorus oxychloride | 350 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 7-chloro-1,3,5-trimethyl-1H-pyrazolo[4,3-d]pyrimidine | 30 g, 98% | ClC=1C2=C(N=C(N1)C)C(=NN2C)C | C8H9ClN4
